US05334716
A mixture of 1-[3-fluoro-4-[1-(methoxymethoxy)pentyl]phenyl]-2-methylpropyl acetate (110 mg) and 1N hydrochloric acid (0.3 ml) in acetic acid (3 ml) was stirred at room temperature for 1 hour. The solvent was evaporated under reduced pressure, and the residue was dissolved in ethyl acetate. The organic solution was washed with aqueous sodium bicarbonate, water and brine, dried over magnesium sulfate and concentrated. The residue was chromatographed on silica gel column eluting with a mixture of hexane and ethyl acetate to give 1-[3-fluoro-4-(1-hydroxypentyl)phenyl]-2-methylpropyl acetate (70 mg) as an oil.

reactant | 1-[3-fluoro-4-[1-(methoxymethoxy)pentyl]phenyl]-2-methylpropyl acetate | 110 mg | C(C)(=O)OC(C(C)C)C1=CC(=C(C=C1)C(CCCC)OCOC)F | C19H29FO4
reactant | hydrochloric acid | 1N, 0.3 ml | Cl | ClH
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | 1-[3-fluoro-4-(1-hydroxypentyl)phenyl]-2-methylpropyl acetate | 70 mg | C(C)(=O)OC(C(C)C)C1=CC(=C(C=C1)C(CCCC)O)F | C17H25FO3
